US08283353B2
4′-{[4-(4-hydroxycyclohexyl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a solution of 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile (7.69 g) in tetrahydrofuran (25 mL) was added 6N hydrochloric acid (25 mL), and the mixture was stirred at 90° C. for 20 hr. The reaction mixture was cooled to room temperature, neutralized with 2 N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. To a solution of the obtained residue in ethanol (20 mL)-tetrahydrofuran (10 mL) was added sodium borohydride (631 mg) under ice-cooling, and the mixture was stirred at room temperature for 8 hr. The reaction mixture was concentrated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel chromatography [eluent: hexane/ethyl acetate=80/30→50/50 (volume ratio)] to give the title compound as a colorless amorphous compound (4.27 g, 60%).

reactant | 4′-{[4-(1,4-dioxaspiro[4.5]dec-8-yl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 7.69 g | O1CCOC12CCC(CC2)N2C=1N(C(=C(C2=O)CC2=CC=C(C=C2)C=2C(=CC=CC2)C#N)CCC)N=C(N1)C(F)(F)F | C31H30F3N5O3
reactant | hydrochloric acid | 6N, 25 mL | Cl | ClH
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
solvent | tetrahydrofuran | 25 mL | O1CCCC1 | C4H8O
product | 4′-{[4-(4-hydroxycyclohexyl)-5-oxo-7-propyl-2-(trifluoromethyl)-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | OC1CCC(CC1)N1C=2N(C(=C(C1=O)CC1=CC=C(C=C1)C=1C(=CC=CC1)C#N)CCC)N=C(N2)C(F)(F)F | C29H28F3N5O2
